US07632965B2
A three-necked flask was charged with 500 ml of toluene, 60 g (0.34 mol) of (2-isocyanatoethyl) 3-chloropropionate obtained in Synthesis Example 2, and 200 g of a dried strongly basic ion-exchange resin, followed by heating at 50° C. for 6 hours with stirring. After cooling to room temperature, the ion-exchange resin was filtered off. Subsequently, the toluene was evaporated, and the remainder was distilled (at 62-67° C. and 0.7 kPa) to yield 41 g (0.29 mol) of acryloyloxyethyl isocyanate (boiling point: 200° C.) (86% yield). The hydrolyzable chlorine concentration was 270 ppm.

reactant | (2-isocyanatoethyl) 3-chloropropionate | 0.34 mol, 60 g | ClCCC(=O)OCCN=C=O | C6H8ClNO3
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | acryloyloxyethyl isocyanate | 0.29 mol, 41 g, 86% yield | C(C=C)(=O)OCCN=C=O | C6H7NO3
